US08193228B2
n-Butyllithium (2.5 M in hexane) (0.14 mL, 0.17 mol) was added to a −78° C. solution of 2-[4-(1,3-dithian-2-yl)phenyl]pyridine (50 mg, 0.18 mmol) in tetrahydrofuran (3 mL). After stirring at 0° C. for 10 min, the reaction mixture was re-cooled to −78° C. and a solution of 4-(2,2-dimethylpropyl)-2-formyl-N,N-dimethyl-1H-imidazole-1-sulfonamide (100 mg, 0.37 mmol) in tetrahydrofuran (1 mL) was added. After stirring at −78° C. for 5 min then at ambient temperature for a further 10 min, the reaction mixture was quenched with water and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Preparatory plate chromatography eluting with 50% ethyl acetate/hexane afforded 4-(2,2-dimethylpropyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide. LCMS: 547 (M+H).

reactant | n-Butyllithium | 0.17 mol, 2.5 M, 0.14 mL | C(CCC)[Li]
reactant | 2-[4-(1,3-dithian-2-yl)phenyl]pyridine | 0.18 mmol, 50 mg | S1C(SCCC1)C1=CC=C(C=C1)C1=NC=CC=C1 | C15H15NS2
reactant | 4-(2,2-dimethylpropyl)-2-formyl-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.37 mmol, 100 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C=O)(C)C | C11H19N3O3S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C1(SCCCS1)C1=CC=C(C=C1)C1=NC=CC=C1)O)(C)C | C26H34N4O3S3
